US09278953B2
To a dry flask was added 3-bromo-6-chloro-2-methoxypyridine (9.7 g, 43.7 mmol), palladium(0)bis(dibenzylideneacetone) (1.3 g, 2.2 mmol), and zinc fluoride (3.4 g, 32.7 mmol). The mixture was degassed with nitrogen. A solution of tri-tert-butylphoshine/toluene (1.0 M, 4.4 mL, 4.4 mmol) in DMF (146 mL) was then added to the degassed mixture. After stirring, (E)-(1-methoxyprop-1-enyloxy)trimethylsilane (15.2 mL, 65 mmol) was added and the reaction was heated at 85° C. for 18 h. The mixture was partitioned between MTBE and brine. The aqueous layer was extracted with MTBE. The combined organic layers were dried over Na2SO4 and concentrated. Purification by silica gel column chromatography (330 g RediSep Gold column, 30-65% DCM/heptanes) provided methyl 2-(6-chloro-2-methoxypyridin-3-yl)propanoate (6.4 g, 64%); 1H NMR (600 MHz, CDCl3) δ: 1.44 (d, 3H), 3.67 (s, 3H), 3.91 (q, 1H), 3.95 (s, 3H), 6.89 (d, 1H), 7.45 (d, 1H).

reactant | 3-bromo-6-chloro-2-methoxypyridine | 43.7 mmol, 9.7 g | BrC=1C(=NC(=CC1)Cl)OC | C6H5BrClNO
reactant | tri-tert-butylphoshine toluene | 4.4 mmol, 1.0 M, 4.4 mL | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C.C1(=CC=CC=C1)C
reactant | (E)-(1-methoxyprop-1-enyloxy)trimethylsilane | 65 mmol, 15.2 mL | CO/C(=C\C)/O[Si](C)(C)C | C7H16O2Si
solvent | DMF | 146 mL | CN(C)C=O | C3H7NO
catalyst | zinc fluoride | 32.7 mmol, 3.4 g | [F-].[Zn+2].[F-]
product | methyl 2-(6-chloro-2-methoxypyridin-3-yl)propanoate | 6.4 g, 64% | ClC1=CC=C(C(=N1)OC)C(C(=O)OC)C | C10H12ClNO3
